US07217740B2
4-fluorobenzaldehyde (10 mL, 93 mmol), 2-bromobenzenethiol (12 mL, 102 mmol) and potassium carbonate (15.4 g, 111 mmol) were combined in dimethylsulfoxide (50 mL) under nitrogen and heated to 120° C. After 2 hours, the temperature had reached 210° C. so the reaction was stopped. The cooled reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over Na2SO4 and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica, eluting with 10% ethyl acetate/isohexane, to give 4-[(2-bromophenyl)thio]benzaldehyde (23.83 g, 87%). δH (360 MHz, d6 DMSO): 9.97 (1H, s), 7.89–7.82 (3H, m), 7.55–7.33 (5H, m).

reactant | 4-fluorobenzaldehyde | 93 mmol, 10 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-bromobenzenethiol | 102 mmol, 12 mL | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | potassium carbonate | 111 mmol, 15.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 4-[(2-bromophenyl)thio]benzaldehyde | 23.83 g, 87% | BrC1=C(C=CC=C1)SC1=CC=C(C=O)C=C1 | C13H9BrOS
